US04795751
A mixture of 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (910 mg), 2-methylpiperazine (320 mg), and pyridine (10 ml) was stirred at 80° C. for 1 hour. After evaporating the reaction mixture under reduced pressure, the residue was dissolved in dilute aqueous ammonia and treated with activated carbon. The filtrate was evaporated under reduced pressure and adjusted to pH 7-8. The resulting crystals were filtered, washed with water, and dried to give 1-cyclopropyl-5,6,8-trifluoro-7-(3-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (810 mg), m.p. 235°-237° C.

reactant | 1-cyclopropyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 910 mg | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)F)=O)C(=O)O | C13H7F4NO3
reactant | 2-methylpiperazine | 320 mg | CC1NCCNC1 | C5H12N2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-cyclopropyl-5,6,8-trifluoro-7-(3-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 810 mg | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CC(NCC1)C)F)F)=O)C(=O)O | C18H18F3N3O3
